US07781426B2
To a solution of 2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethyl)benzonitrile (242.1 mg, 0.488 mmol) in 88% aqueous formic acid (5.86 mL) was added PtO2 (57 mg, 0.251 mmol). The reaction was heated to 60° C. After 2 hours, additional PtO2 (57 mg, 0.251 mmol) was added. After 2 more hours, a third portion of PtO2 (57 mg, 0.251 mmol) was added. Heating of the reaction at 60° C. was continued for 18 more hours, and then the reaction was cooled to room temperature. The catalyst was removed by filtration through celite with THF (50 mL). The filtrate was diluted with EtOAc (100 mL) and washed with H2O (2×50 mL), 1:1 saturated NaHCO3/brine (2×50 mL), and brine (50 mL). The organic layer was dried over Na2SO4, filtered, and concentrated. Purification of the residue by flash chromatography (5 to 35% EtOAc/hexanes) afforded 2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethyl)benzaldehyde. Rf=0.23 (25% EtOAc/hexanes). LCMS=500.0 (M+1)+. 1H NMR (CDCl3, 500 MHz) δ 10.26 (s, 1H), 7.79-8.02 (m, 6H), 5.74 (d, J=8.1 Hz, 1H), 5.08 (d, J=16.5 Hz, 1H), 4.91 (d, J=16.7 Hz, 1H), 4.18 (m, 1H), 0.81 (d, J=6.4 Hz, 3H).

reactant | 2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethyl)benzonitrile | 0.488 mmol, 242.1 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C#N)C=CC(=C1)C(F)(F)F)C)(F)F | C21H13F9N2O2
reactant | formic acid | 5.86 mL | C(=O)O | CH2O2
catalyst | PtO2 | 0.251 mmol, 57 mg | O=[Pt]=O
catalyst | PtO2 | 0.251 mmol, 57 mg | O=[Pt]=O
catalyst | PtO2 | 0.251 mmol, 57 mg | O=[Pt]=O
product | 2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4-(trifluoromethyl)benzaldehyde | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=O)C=CC(=C1)C(F)(F)F)C)(F)F | C21H14F9NO3
